Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: abdominal pain of few days duration 
 
Major Surgical or Invasive Procedure:
Rectal Tube
Sigmoidoscopy
None

 
History of Present Illness:
 Ms. ___ is a ___ female social worker  with PMH
of UC presents with sharp and colicky pain in the right lower
abdominal quadrant that started ___ as mild pain but
progressed over the last few days to severe pain, intermittent,
worsens with eating, resolves spontaneously usually within
minutes. Associated with mild nausea, no vomiting. Loose stools
but she always had loose stools since her colectomy. No fevers,
chills, night sweats or bleeding per rectum. 

Patient went to hospital in ___, CT abd was done which
showed per records "CT A/P ___, ___, read 
per
___ Radiology):
Dilated loops of contrast-filled small bowel throughout the mid
to lower abdomen and into the pelvis, post J-pouch anal
anastomosis without abscess or apparent anastomotic region wall
thickening. Contrast reaches and opacifies the anastomosis into
the low rectum. A transition point of bowel caliber is difficult
to discern but is probably central mesenteric in the region of
anastomotic sutures around image 25 coronal series."

Patient had pouchitis last year, and small bowel obstruction
___. 

In the ED patient was started on cipro, kept NPO, given IV
analgesics, seen by CRS and GI. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative except for mild
headache with caffeine craving. 
 
Past Medical History:
- UC: She was diagnosed with UC in ___. She was tried on
Remicaide, ___ and steroids, but then had a total colectomy in
___ with reversal of ileostomy and formation of J-pouch with
ileoanal anastomosis. Her course was most recently complicated 
by
SBO (last in ___ and multiple bouts of pouchitis (last in
___. She was on Humira for the past ___ years but she stopped
going to her infusion appointment with her husband's passing. 

- C.diff infection years ago

- Anxiety, Depression
 
Social History:
___
Family History:
Confirmed/ per records: Skin cancer, breast cancer, no history 
of
bleeding or clotting disorder. 
 
Physical Exam:
VITALS: ___ 0549 Temp: 97.8 PO BP: 113/73 R Lying HR: 64 
RR:
10 O2 sat: 98% O2 delivery: RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation all over 
but
more in the RLQ.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. Per
surgery exam tenderness in pouch in DRE
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, 
PSYCH: pleasant, appropriate but sad affect

Discharge exam:

24 HR Data (last updated ___ @ 751)
    Temp: 98.1 (Tm 98.4), BP: 102/60 (102-113/60-67), HR: 64
(64-75), RR: 16 (___), O2 sat: 97% (97-98), O2 delivery: RA   
 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. Non tender today
. Bowel sounds present in RLQ.  No HSM
Rectal tube draining dark liquid stools
GU: No suprapubic fullness or tenderness to palpation.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, 
PSYCH: pleasant, appropriate but sad affect

Dc Exam:
24 HR Data (last updated ___ @ 751)
    Temp: 98.1 (Tm 98.4), BP: 102/60 (102-113/60-67), HR: 64 
(64-75), RR: 16 (___), O2 sat: 97% (97-98), O2 delivery: RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. Non tender today
. Bowel sounds present in RLQ.  No HSM
Rectal tube absent
GU: No suprapubic fullness or tenderness to palpation.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, 
PSYCH: pleasant, appropriate but sad affect
 
Pertinent Results:
___ 09:38PM BLOOD WBC: 11.0* 
___ 09:38PM BLOOD Glucose: 93 UreaN: 5* Creat: 0.7 Na: 142
K: 4.7 Cl: 108 HCO3: 24 AnGap: ___:

A/P ___, ___, read per ___ Radiology):

Dilated loops of contrast-filled small bowel throughout the mid
to lower abdomen and into the pelvis, post J-pouch anal
anastomosis without abscess or apparent anastomotic region wall
thickening. Contrast reaches and opacifies the anastomosis into
the low rectum. A transition point of bowel caliber is difficult
to discern but is probably central mesenteric in the region 

___
 A few shallow circular nonbleeding ulcers ranging in size from
1mm to 3 mm were find in the pouch. Multiple cold forcepts
biopsies were performed for histology in the pouch. 
A few shallow linear nonbleeding 2mm ulcers were found in the
pouch inlet. Multiple forceps biopsies were performed for
histology in the pouch inlet. 
Normal mucosa was noted in the terminal ileum proximal to the
pouch inlet. Multiple forceps biopsies were performed for
histology in the terminal ileum. 
Otherwise normal sigmoidoscopy.

KUG ___

The patient is status post colectomy.  When compared to the 
scout images from 
the prior CT scan dated ___, there is no significant 
interval 
change in a few dilated loops of small bowel over the lower mid 
abdomen and 
pelvis. 
Supine assessment limits detection for free air; there is no 
gross 
pneumoperitoneum. 
Osseous structures are unremarkable. Sutures are seen in the 
pelvis. 
There are no unexplained soft tissue calcifications or 
radiopaque foreign 
bodies. 
  
IMPRESSION:  
  
No significant interval change in dilated small bowel loops 
projecting over the lower mid abdomen and pelvis. 

KUB ___

FINDINGS:  
Patient is status post colectomy.  Redemonstration of gas-filled 
loops of 
small bowel overlying the lower abdomen and pelvis, less 
gas-distended 
compared to prior. 
There is no free intraperitoneal air. 
There is no acute osseous abnormalities. 
There are no unexplained soft tissue calcifications or 
radiopaque foreign 
bodies. 

D/C Labs:

___ 16:40 
QUANTIFERON-TB GOLD 
  Test                          Result              Reference 
Range/Units
QUANTIFERON(R)-TB GOLD        NEGATIVE            NEGATIVE
 
Negative test result. M. tuberculosis complex 
infection unlikely.
 
Test                          Result              Reference 
Range/Units
NIL                           0.16                IU/mL
MITOGEN-NIL                   >10.00              IU/mL
TB-NIL                        0.05                IU/mL
 
CRP trend:
___ 12:53PM BLOOD CRP-1.1
___ 05:57AM BLOOD CRP-9.3*
___ 06:51AM BLOOD CRP-5.2*
___ 06:37AM BLOOD CRP-2.3

___ 06:37AM BLOOD WBC-9.6 RBC-4.29 Hgb-13.4 Hct-40.8 MCV-95 
MCH-31.2 MCHC-32.8 RDW-12.9 RDWSD-45.3 Plt ___
___ 06:37AM BLOOD Glucose-105* UreaN-5* Creat-0.7 Na-143 
K-4.2 Cl-104 HCO3-22 AnGap-17
___ 06:37AM BLOOD Calcium-9.7 Phos-4.9* Mg-2.3
___ 06:00AM BLOOD calTIBC-270 VitB12-201* Ferritn-37 
TRF-208
___ 06:00AM BLOOD 25VitD-25*

___ 06:00AM BLOOD 25VitD-25*
___ 06:00AM BLOOD calTIBC-270 VitB12-201* Ferritn-37 
TRF-208

___ 06:00 
PREALBUMIN 
  Test                          Result              Reference 
Range/Units
PREALBUMIN                    20                  ___ mg/dL

Biopsy results:

1. Terminal ileum:
-Small intestinal mucosa with no diagnostic abnormalities 
recognized (focal, nonspecific active
inflammation adjacent to a Peyer's patch seen).
-CMV immunohistochemical stain is negative, with satisfactory 
control.
2. Pouch:
-Small intestinal mucosa with ulceration, consistent with focal 
severely active pouchitis.
-CMV immunohistochemical stain is negative, with satisfactory 
control.
3. Pouch inlet:
-Focal chronic, mildly-to-moderately active enteritis/pouchitis.
-CMV immunohistochemical stain is negative, with satisfactory 
control.
 
Brief Hospital Course:
Ms. ___ is a ___ female with US/
total colectomy presents with abdominal pain

ACUTE/ACTIVE PROBLEMS:
# Abdominal Pain/ UC/ hx of colectomy with IPAA: 
# Concern for partial obstruction
Patient presented with abdominal pain, and nausea/vomiting which 
may be due to SBO (based on clincical and radiographic studies), 
potentially due to surgical adhesions vs Crohn's disease, vs 
pouchitis. 
C. diff negative.  She was treated with IV antibiotics 
(Cipro/Flagyl) to complete a 7d course as an outpatient.
 The patient had a flexible sigmoidoscopy which showed a few 
ulcers of her pouch with subsequent biopsies c/w pouchitis. CMV 
negative.
Clinically she had ongoing symptoms concerning for obstruction.  
She was seen by colorectal surgery and a rectal tube was placed 
(___) for decompression with relief of her symptoms and good 
liquid stool output which was removed ___. She was started on 
IV steroids for management of possible Crohn's disease with 
normalization of her CRP (though never particularly high). She 
tolerated a lactose free diet on the day of d/c. In discussion 
with GI at ___, possible plan to ts to remicade again as an 
outpatient (unable to reach again prior to d/c but pt confident 
she could reach him for coordination of care.)

CHRONIC/STABLE PROBLEMS:
# Depressions and anxiety: continue home Celexa and buspirone.
since patient is on cipro; EKG monitored which was wnl. 
Patient is grieving over the loss of her husband last ___ to
suicide. Declines on social work consult. 

Transitional Issues:
[ ] Given add'l PO prednisone 40mg to complete 2 week course; 
please engage with patient regarding role/timing of tapered 
course
[ ] Given add'l cipro/flagyl to complete  total 7d course
[ ] Consider VitD repletion with outpatient providers (25mg/dl 
here)
[ ] Quant negative, pt will need o/p remicade ab testing prior 
to resuming therapy, deferred to ___ provider
 
___ on ___:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Influenza Vaccine Quadrivalent 0.5 mL IM NOW X1 
Start: ___, First Dose: Next Routine Administration Time 
2. Citalopram 40 mg PO DAILY 
3. BusPIRone 15 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 6 Doses 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth Twice 
daily Disp #*6 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID Duration: 9 Doses 
RX *metronidazole 500 mg 1 tablet(s) by mouth Three times daily 
Disp #*9 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
Duration: 12 Doses 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*12 Tablet Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 22 Doses 
Take 2 pills twice daily for 11 days then stop.  
RX *prednisone 20 mg 2 tablet(s) by mouth Daily Disp #*22 Tablet 
Refills:*0 
5.  BusPIRone 15 mg PO DAILY  
6.  Citalopram 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohns disease flare with possible small bowel obstruction and 
pouchitis

 
Discharge Condition:
Stable

 
Discharge Instructions:
You came to the hospital with abdominal pain and nausea.
You underwent testing including imaging studies and a 
sigmoidoscopy which raised concern for a likely crohns disease 
flare with resultant bowel obstruction and pouchitis. 
At the recommendation of the GI doctors and ___, 
a rectal tube was placed to decompress your bowels and you were 
started on IV steroids with improvement in your symptoms. 
You should continue on steroids by mouth (prednisone) every day 
to complete a ___s well as antibiotics by mouth 
every day to complete a 7 day course.
It is very important that you reach out to your outpatient GI 
doctors to ___ follow up in ___ weeks and consider 
re-initiating humira at their discretion.
We will be in touch with their staff to ensure a safe transition 
of your care.
It was a pleasure taking care of you. We wish you all the best!

 
 
Followup Instructions:
___